US07368578B2
A mixture of ethyl (E)-3-(3-{[3-methoxy-4-(5-methyl-2-phenyl-1,3-oxazol-4-ylmethoxy)benzyl]oxy}-1-phenyl-1H-pyrazol5-yl)-2-propenoate (300 mg), 1N aqueous sodium hydroxide solution (3 mL), tetrahydrofuran (5 mL) and ethanol (3 mL) was stirred at 60° C. for 5 hrs. 1N Hydrochloric acid (3 mL) was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The obtained colorless crystals were collected by filtration to give (E)-3-(3-{[3-methoxy-4-(5-methyl-2-phenyl-1,3-oxazol-4-ylmethoxy)benzyl]oxy}-1-phenyl-1H-pyrazol5-yl)-2-propenoic acid (270 mg, yield 95%). The crystals were recrystallized from tetrahydrofuran-hexane. melting point: 194-195° C.

reactant | ethyl (E)-3-(3-{[3-methoxy-4-(5-methyl-2-phenyl-1,3-oxazol-4-ylmethoxy)benzyl]oxy}-1-phenyl-1H-pyrazol5-yl)-2-propenoate | 300 mg | COC=1C=C(COC2=NN(C(=C2)/C=C/C(=O)OCC)C2=CC=CC=C2)C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1 | C33H31N3O6
reactant | sodium hydroxide | 1N, 3 mL | [OH-].[Na+]
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | Hydrochloric acid | 1N, 3 mL | Cl | ClH
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | (E)-3-(3-{[3-methoxy-4-(5-methyl-2-phenyl-1,3-oxazol-4-ylmethoxy)benzyl]oxy}-1-phenyl-1H-pyrazol5-yl)-2-propenoic acid | 270 mg, yield 95% | COC=1C=C(COC2=NN(C(=C2)/C=C/C(=O)O)C2=CC=CC=C2)C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1 | C31H27N3O6
